US04788201
1-N-Phenoxycarbonyl-4-(2-amino-4-fluorophenoxy)-4-ethynylpiperidine
To a stirred suspension of 735 ml of methanol and 51.7 g of 1-N-phenoxycarbonyl-4-ethynyl-4-(4-fluoro-2-nitrophenoxy)piperidine was added a solution of 51 ml of concentrated hydrochloric acid in 206 ml of water. To the stirred mixture was added, in aliquots, 80.2 g of iron (reduced, electrolytic). The mixture was stirred 2 hr, heated to 45° for 1 hr and allowed to cool to room temperature. The mixture was poured into ice/water, extracted twice with dichloromethane, washed with saturated sodium chloride solution and dried over anhydrous potassium carbonate. The mixture was filtered and the filtrate was evaporated. The residue was purified by chromatography on a Waters Prep 500 High Pressure Liquid Chromatograph (1×500 cc silica gel:eluent: 0.5 methanol/dichloromethane). Concentration of the appropriate fractions provided an oil, which crystallized on standing to provide 15.7 g (33%) of product. Recrystallization from cyclohexane/ethyl acetate provided the analytical sample, mp 125°-127°.

reactant | methanol | 735 ml | CO | CH4O
reactant | 1-N-phenoxycarbonyl-4-ethynyl-4-(4-fluoro-2-nitrophenoxy)piperidine | 51.7 g | O(C1=CC=CC=C1)C(=O)N1CCC(CC1)(OC1=C(C=C(C=C1)F)[N+](=O)[O-])C#C | C20H17FN2O5
reactant | hydrochloric acid | 51 ml | Cl | ClH
solvent | water | 206 ml | O | H2O
catalyst | iron | 80.2 g | [Fe] | Fe
product | 1-N-Phenoxycarbonyl-4-(2-amino-4-fluorophenoxy)-4-ethynylpiperidine | 15.7 g, 33% | O(C1=CC=CC=C1)C(=O)N1CCC(CC1)(C#C)OC1=C(C=C(C=C1)F)N | C20H19FN2O3
